US05593988
In a nitrogen atmosphere, 4-amino-6-(4-chlorophenyl)-4-ethoxycarbonyl-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]-benzodiazepine (373 mg) was dissolved in dry tetrahydrofuran (4 ml) and thereto was added 3-methylphenyl isocyanate (139 μl), followed by reaction at room temperature for 3.5 hours. After the completion of the reaction, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with a 5% aqueous solution of citric acid, water and saturated brine, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography (chroloform:methanol=45:1) and crystallized to give 219 mg of N-[6-(4-chlorophenyl)-4-ethoxycarbonyl-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N'-(3-methylphenyl)urea as pale yellow needle crystals, mp. 168°-172° C.

reactant | 4-amino-6-(4-chlorophenyl)-4-ethoxycarbonyl-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]-benzodiazepine | 373 mg | NC1(C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C=CC=C3)C(=NN2)C)C(=O)OCC | C20H18ClN5O2
reactant | 3-methylphenyl isocyanate | 139 μl | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | N-[6-(4-chlorophenyl)-4-ethoxycarbonyl-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]-N'-(3-methylphenyl)urea | 219 mg | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C=CC=C3)C(=NN2)C)(C(=O)OCC)NC(=O)NC2=CC(=CC=C2)C | C28H25ClN6O3
